US08685969B2
4. 4-Bromo-3-(2-nitrovinyl)-1H-indole-7-carboxamide
A dark red-brown solution of 4-bromo-1H-indole-7-carboxamide (0.79 g, 3.30 mmol) and (E)-N,N-dimethyl-2-nitroethenamine (0.422 g, 3.63 mmol) in TFA (9.44 mL) was stirred at room temperature overnight. After 16 h, LCMS indicated residual starting materials in addition to desired product. Additional (E)-N,N-dimethyl-2-nitroethenamine (77 mg) was added and the mixture was stirred at room temperature for 6 h. The mixture was partitioned between 1 M NaOH (pH was adjusted to ca. 4) and EtOAc. The organic phase was washed with NaHCO3 (aq) and brine, dried and concentrated to afford a bright orange-red solid. The crude product was suspended in EtOAc and the desired product was collected by filtration, washed with EtOAc and air dried to provide a solid (0.89 g, 87% yield). LCMS (M+H)+ m/z 309.7, 311.7.

reactant | 4-bromo-1H-indole-7-carboxamide | 3.30 mmol, 0.79 g | BrC1=C2C=CNC2=C(C=C1)C(=O)N | C9H7BrN2O
reactant | (E)-N,N-dimethyl-2-nitroethenamine | 3.63 mmol, 0.422 g | CN(\C=C\[N+](=O)[O-])C | C4H8N2O2
solvent | TFA | 9.44 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-Bromo-3-(2-nitrovinyl)-1H-indole-7-carboxamide | BrC1=C2C(=CNC2=C(C=C1)C(=O)N)C=C[N+](=O)[O-] | C11H8BrN3O3
